US04029787
4-(4-Methylpiperazine-1-yl)-3-piperidinosulfonylbenzoic acid-hydrochloride
The reaction was carried out in a manner analogous to that of Example 37, using 30.4 g of 4-chloro-3-piperidinosulfonyl benzoic acid (0.1 mole) and 50 ml of N-methylpiperazine.

reactant | 4-chloro-3-piperidinosulfonyl benzoic acid | 0.1 mole, 30.4 g | ClC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)N1CCCCC1 | C12H14ClNO4S
reactant | N-methylpiperazine | 50 ml | CN1CCNCC1 | C5H12N2
product | 4-(4-Methylpiperazine-1-yl)-3-piperidinosulfonylbenzoic acid-hydrochloride | Cl.CN1CCN(CC1)C1=C(C=C(C(=O)O)C=C1)S(=O)(=O)N1CCCCC1 | InChI=1S/C17H25N3O4S.ClH/c1-18-9-11-19(12-10-18)15-6-5-14(17(21)22)13-16(15)25(23,24)20-7-3-2-4-8-20;/h5-6,13H,2-4,7-12H2,1H3,(H,21,22);1H
